US04705797
Preparation of methyl N-(3,3-diphenylpropyl)-N-hydroxy-2-aminoethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate (compound 2410)
3 ml of triethylamine were added to a solution of 2.40 g of N-hydroxy-3,3-diphenylpropylamine in 17 ml of dimethylformamide. 4.39 g of methyl 2-bromoethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate were added to the mixture. The mixture was then maintained in a nitrogen atmosphere and heated for 160 minutes at 105° C. After cooling, the mixture was poured into water and extracted with a diethyl ether: ethyl acetate mixture. The organic layer was washed many times with water and then dried. The solvent was evaporated off in vacuo. The oily residue obtained was purified first by chromatography on a silica gel column with ethyl acetate gradient in toluene and then on a silica gel column containing ammonia at 5.5% by weight with about 6 N methanolic ammonia gradient in chloroform. The solid thus obtained was dissolved in a 2:1 by volume acetone: diethyl ether mixture and hydrogen chloride in diethyl ether was added. The hydrochloride hemihydrate of the title compound was filtered off, washed with isopropanol and dried at 100° C. and 0.5 mmHg for 1 hour. Yield 1.51 g, m.p. 100°-105° C.

reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | N-hydroxy-3,3-diphenylpropylamine | 2.40 g | ONCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H17NO
reactant | methyl 2-bromoethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | 4.39 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCBr)C | C18H19BrN2O6
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
solvent | acetone | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | methyl N-(3,3-diphenylpropyl)-N-hydroxy-2-aminoethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCN(O)CCC(C1=CC=CC=C1)C1=CC=CC=C1)C | C33H35N3O7
